US07820671B2
Potassium Cyanide (4 g, 61.44 mmol) is dissolved in 70 mL water and 200 mL methanol. To the solution 10 g (51.2 mmol) of methyl 5-bromopentanoate is added and the mixture is refluxed overnight. The reaction mixture is concentrated to dryness. To the residue, 100 mL of EtOAc is added to extract the product. The organic is washed with water three times, dried and concentrated to yield 5.37 g (74%) of methyl 5-cyanopentanoate as an oil.

reactant | Potassium Cyanide | 61.44 mmol, 4 g | [C-]#N.[K+]
reactant | methyl 5-bromopentanoate | 51.2 mmol, 10 g | BrCCCCC(=O)OC | C6H11BrO2
solvent | water | 70 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | methyl 5-cyanopentanoate | 5.37 g, 74% | C(#N)CCCCC(=O)OC | C7H11NO2
